US06406667B1
Synthesis of Thioxene-BPEA:
To 120 mg of 2-[4-(carboxybutyl)methylaminophenyl]-3-phenyl-5,6-dihydrothioxene prepared as described above (0.5 mmol) in 5.0 mL of THF was cooled in an ice bath for 30 minutes. 5.0 mL of oxalyl chloride was added to the cooled solution. The reaction mixture was stirred at 4° C. for 3 hours. Oxalyl chloride was evaporated on the rotovap under reduced pressure to give the acid chloride of 2-[4-(carboxybutyl)methylaminophenyl]-3-phenyl-5,6-dihydrothioxene. 2-Amino 9,10-bis-phenylethynyl anthracene (1.0 mmol) in 25 mL of dry THF was added to the residue followed by 2 drops of triethyl amine. The heterogeneous reaction mixture was stirred at room temperature for 24 hours. The reaction mixture was worked up as described for thioxene-phenanthrene. The product, 2-amino-9,10-bis(phenylethynyl)anthracene amide of 2-[4-(carboxybutyl)methylaminophenyl]-3-phenyl-5,6-dihydrothioxene (compound 7 in Table 1) was purified on preparative TLC (CH2Cl2: hexane 9:1) to yield 150 mg of yellow glassy solid.

reactant | 2-Amino 9,10-bis-phenylethynyl anthracene | 1.0 mmol | NC1=CC2=C(C3=CC=CC=C3C(=C2C=C1)C#CC1=CC=CC=C1)C#CC1=CC=CC=C1 | C30H19N
reactant | phenanthrene | C1=CC=CC=2C3=CC=CC=C3C=CC12 | C14H10
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | triethyl amine | 2 drops | C(C)N(CC)CC | C6H15N
product | BPEA | 150 mg | C1=CC=C(C=C1)C#CC2=C3C=CC=CC3=C(C4=CC=CC=C42)C#CC5=CC=CC=C5 | C30H18
